US04287341
A. 6-Chloro-7,8-dimethoxyquinazoline-2,4-dione (Xb)
Acetic acid (10.5 g., 0.175 mole) was added to a vigorously stirred suspension of 5-chloro-3,4-dimethoxyanthranilic acid (28.9 g., 0.125 mole) in 600 ml. water. Then 506 ml. 5% potassium cyanate (0.312 mole) solution was gradually added and stirred 1 hour at 40° C. After cooling the reaction mixture to 20° C., 175 g. (4.37 moles) of sodium hydroxide pellets were added while maintaining the temperature below 40° C. The reaction mixture was heated to 90° C. for 45 minutes. Upon cooling in an ice bath, the sodium salt of the product precipitated, was filtered, resuspended in 125 ml. water, acidified with concentrated hydrochloric acid, cooled and filtered to yield 25.8 g. (80%) of colorless, pure product, M.P. 272°-3° C.

reactant | Acetic acid | 0.175 mole, 10.5 g | C(C)(=O)O | C2H4O2
reactant | 5-chloro-3,4-dimethoxyanthranilic acid | 0.125 mole, 28.9 g | ClC1=C(C(=C(C(C(=O)O)=C1)N)OC)OC | C9H10ClNO4
reactant | potassium cyanate | 0.312 mole | [O-]C#N.[K+]
reactant | sodium hydroxide | 4.37 moles | [OH-].[Na+]
solvent | water | O | H2O
product | 6-Chloro-7,8-dimethoxyquinazoline-2,4-dione | ClC=1C=C2C(NC(NC2=C(C1OC)OC)=O)=O | C10H9ClN2O4
